US09447046B2
Preparation 109a: 3,5-difluoro-N-methylaniline
A solution of 3,5-difluoroaniline (5.0 g, 38.7 mmol) in HCOOH (15 mL) was heated to reflux for 4 h. The mixture was poured into ice-water and stirred for 0.5 h. The white solid was collected by filtration, and dried under vacuum to give 4.8 g (79%) of crude N-(3,5-difluorophenyl)formamide. To the solution of LiAlH4 (3.0 g, 78.9 mmol) in dry THF (50 mL) was added a solution of N-(3,5-difluorophenyl)formamide (4.8 g, 30.6 mmol) in dry THF (50 mL) at r.t. The mixture was stirred overnight and then quenched with addition of water (3.0 mL), aqueous 10% NaOH (3.0 mL), and water (9.0 ml). The reaction mixture was filtered and extracted with EtOAc. Organics were dried (Na2SO4), and concentrated to give 3.8 g (86%) of the title compound as a pale brown oil.

reactant | LiAlH4 | 78.9 mmol, 3.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-(3,5-difluorophenyl)formamide | 30.6 mmol, 4.8 g | FC=1C=C(C=C(C1)F)NC=O | C7H5F2NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3,5-difluoro-N-methylaniline | 3.8 g, 86% | FC=1C=C(NC)C=C(C1)F | C7H7F2N
